US05366987
(e) 3-Dodecyl-5-methylisoxazole
A suspension of 5-(bromomethyl)-3-dodecylisoxazole (9.99 g, 0.0302 mol) in dimethylsulfoxide (100 mL) was warmed to give a cloudy solution and allowed to cool. When the temperature reached +35° C., sodium borohydride (1.2 g, 0.032 mol) was added in one portion, and the mixture was stirred for 3 days under nitrogen at room temperature. The mixture was poured into 0.1M HCl (900 mL) and extracted with ether. The organic layer was washed (saturated NaCl), dried (MgSO4), and rotoevaporated. The residue was chromatographed on silica gel (160 g, 70-230 mesh) using petroleum etheracetone (29:1, 10×200 mL) as eluent. Fraction 6 was rotoevaporated and dried in vacuo to give a white solid; yield 3.96 g (52%); mp 35°-38° C.

reactant | 5-(bromomethyl)-3-dodecylisoxazole | 0.0302 mol, 9.99 g | BrCC1=CC(=NO1)CCCCCCCCCCCC | C16H28BrNO
reactant | sodium borohydride | 0.032 mol, 1.2 g | [BH4-].[Na+]
reactant | HCl | 0.1M, 900 mL | Cl | ClH
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 3-Dodecyl-5-methylisoxazole | C(CCCCCCCCCCC)C1=NOC(=C1)C | C16H29NO
